US07820664B2
Step K: N-(7-(2-Fluoro-4-iodophenylamino)-8-fluoro-4-methylquinazolin-6-yl)cyclopropanesulfonamide:
To a solution of 3-(2-fluoro-4-iodophenyl)-1-(cyclopropylsulfonyl)-4-fluoro-8-methyl-1H-imidazo[4,5-g]quinazolin-2(3H)-one (46 mg, 0.09 mmol) in THF (5 ml) was added potassium trimethylsilanolate (35 mg, 0.27 mmol). The reaction was stirred at room temperature for 16 h, quenched with saturated aqueous NH4Cl solution (5 ml), and extracted with EtOAc (2×10 ml). The combined organic solution was washed with brine (15 ml), dried over MgSO4, and concentrated. Silica gel chromatography (EtOAc:Hexanes=50:50) yielded 39 mg (90%) of the title compound as a light yellow solid. m/z=515 [M−1]−. 1H NMR (DMSO-d6, 400 MHz): δ 0.85 (m, 4H), 2.75 (m, 1H), 2.87 (s, 3H), 6.61 (m, 1H), 7.36 (d, J=8 Hz, 1H), 7.67 (d, J=11 Hz, 1H), 8.02 (s, 2H), 9.07 (s, 1H), 9.78 (s, 1H).

reactant | 3-(2-fluoro-4-iodophenyl)-1-(cyclopropylsulfonyl)-4-fluoro-8-methyl-1H-imidazo[4,5-g]quinazolin-2(3H)-one | 0.09 mmol, 46 mg | FC1=C(C=CC(=C1)I)N1C(N(C2=CC=3C(=NC=NC3C(=C21)F)C)S(=O)(=O)C2CC2)=O | C19H13F2IN4O3S
reactant | potassium trimethylsilanolate | 0.27 mmol, 35 mg | C[Si]([O-])(C)C.[K+]
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | N-(7-(2-Fluoro-4-iodophenylamino)-8-fluoro-4-methylquinazolin-6-yl)cyclopropanesulfonamide | 39 mg, 90% | FC1=C(C=CC(=C1)I)NC1=C(C=C2C(=NC=NC2=C1F)C)NS(=O)(=O)C1CC1 | C18H15F2IN4O2S
